US04684654
2-Amino-N-[3-(1H-imidazole-1-yl)propyl]benzamide
A mixture of 2.93 g of isatoic anhydride, 2.50 g of 1H-imidazole-propanamine and 30 ml of toluene was heated at 90° C. for 45 minutes and cooled. The toluene layer was decanted and the residue was dissolved in methylene chloride, washed with dilute sodium hydroxide solution, water and dried over magnesium sulfate. The organic layer was concentrated to obtain the desired product, mp 107°-110° C.

reactant | isatoic anhydride | 2.93 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 1H-imidazole-propanamine | 2.50 g | N1C(=NC=C1)CCCN | C6H11N3
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Amino-N-[3-(1H-imidazole-1-yl)propyl]benzamide | NC1=C(C(=O)NCCCN2C=NC=C2)C=CC=C1 | C13H16N4O
